US07098241B2
a) Synthesis of (S)-5-(1-p-Tolyl-ethylcarbamoyl)-thiophene-2-carboxylic acid methyl ester
A solution of 1.4 g (7.5 mmol) of methyl thiophen-2,5-dicarboxylate in CH2Cl2 (5 ml) is treated with 1.5 ml (18 mmol) thionylchloride and one drop of DMF and subsequently heated at 80° C. for 1 hour. The solvent and excess of thionylchloride are evaporated under reduced pressure, and the residue is dissolved in CH2Cl2 (10 ml) and treated slowly with (S)-1-(p-tolyl)ethylamine (1.0 g, 7.4 mmol) in CH2Cl2 (10 ml) and triethylamin (2 ml, 14.2 mmol). Stirring at rt is continued for 1 additional hour. The product is isolated after acidic work-up and recrystallisation as yellow solid (mp=165° C.) in 71% yield (1.6 g).

reactant | methyl thiophen-2,5-dicarboxylate | 7.5 mmol, 1.4 g | S1C(=CC=C1C(=O)[O-])C(=O)OC
reactant | thionylchloride | 18 mmol, 1.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (S)-1-(p-tolyl)ethylamine | 7.4 mmol, 1.0 g | C1(=CC=C(C=C1)[C@H](C)N)C | C9H13N
reactant | triethylamin | 14.2 mmol, 2 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (S)-5-(1-p-Tolyl-ethylcarbamoyl)-thiophene-2-carboxylic acid methyl ester | 71% yield | COC(=O)C=1SC(=CC1)C(N[C@@H](C)C1=CC=C(C=C1)C)=O | C16H17NO3S
